US06410556B1
To a solution of the above 4-benzyloxy-2-(1,4-dioxa-8-aza-spiro[4.5]dec-7-ylmethyl)-isoindole-1,3-dione (0.22 g, 0.54 mmol) in 1,4-dioxane (4 ml) was added 4N hydrochloric acid (4 ml) and the reaction stirred in a 65° C. (oil bath) for 6 hours. The mixture was basified with saturated sodium bicarbonate until pH=8 and extracted with dichloromethane (3×20 ml). The combined organic extracts were dried (MgSO4), filtered, and the solvent evaporated in vacuo affording crude 4-benzyloxy-2-(4-oxo-piperidin-2-ylmethyl)-isoindole-1,3-dione as an oil. Which was used without further purification or characterization.

reactant | 4-benzyloxy-2-(1,4-dioxa-8-aza-spiro[4.5]dec-7-ylmethyl)-isoindole-1,3-dione | 0.54 mmol, 0.22 g | C(C1=CC=CC=C1)OC1=C2C(N(C(C2=CC=C1)=O)CC1CC2(OCCO2)CCN1)=O | C23H24N2O5
reactant | hydrochloric acid | 4N, 4 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | 4-benzyloxy-2-(4-oxo-piperidin-2-ylmethyl)-isoindole-1,3-dione | C(C1=CC=CC=C1)OC1=C2C(N(C(C2=CC=C1)=O)CC1NCCC(C1)=O)=O | C21H20N2O4
